US05025025
To a solution of 3.1 g (5 mmol) of ethyl 8-[N-(p-chlorophenylsulfonyl)-N-(t-butoxycarbonyl)amino]-4-(2-iodoethyl)octanoate in 10 ml dimethylformamide at 0° C. under an inert atmosphere is added a solution of 0.62 g (6.5 mmol) 3-hydroxypyridine and 0.73 g potassium-t-butoxide in 20 ml dimethylformamide, dropwise. After 24 hours at room temperature the reaction is evaporated to dryness. The residue is dissolved in ethyl acetate and the solution is washed with cold 5% Na2CO3 solution and brine, dried and evaporated to yield ethyl 8-[N-(p-chlorophenylsulfonyl)-N-(t-butoxycarbonyl)-amino]-4-[2-(3-pyridyloxy)-ethyl]-octanoate.

reactant | ethyl 8-[N-(p-chlorophenylsulfonyl)-N-(t-butoxycarbonyl)amino]-4-(2-iodoethyl)octanoate | 5 mmol, 3.1 g | ClC1=CC=C(C=C1)S(=O)(=O)N(C(=O)OC(C)(C)C)CCCCC(CCC(=O)OCC)CCI | C23H35ClINO6S
reactant | 3-hydroxypyridine | 6.5 mmol, 0.62 g | OC=1C=NC=CC1 | C5H5NO
reactant | potassium-t-butoxide | 0.73 g | CC(C)([O-])C.[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl 8-[N-(p-chlorophenylsulfonyl)-N-(t-butoxycarbonyl)-amino]-4-[2-(3-pyridyloxy)-ethyl]-octanoate | ClC1=CC=C(C=C1)S(=O)(=O)N(C(=O)OC(C)(C)C)CCCCC(CCC(=O)OCC)CCOC=1C=NC=CC1 | C28H39ClN2O7S
